US03965099
To a cold solution of sodium 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate (738 mg, 1.5 mmol) in dry DMF (10 ml) is added a solution of bromomethyl acetate (253 mg, 1.65 mmol) in DMF (1 ml). The reaction is stirred for 30 minutes at 0°C and 90 minutes at room temperature. The reaction is diluted with water and the aqueous mixture is extracted with ethyl acetate. The extracts are washed with water, dried and evaporated to give acetoxymethyl 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate. The product is dissolved in ethyl acetate and is precipitated by the addition of petroleum ether.

reactant | sodium 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate | 1.5 mmol, 738 mg | FC(F)(F)SCC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)[O-])C1=O.[Na+]
reactant | bromomethyl acetate | 1.65 mmol, 253 mg | C(C)(=O)OCBr | C3H5BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | acetoxymethyl 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate | FC(F)(F)SCC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OCOC(C)=O)C1=O | C16H17F3N6O6S3
